US08754100B2
Synthesis of tert-butyl [2-oxo-6-(3-trifluoromethylphenyl)piperidin-1-yl]carbamate
Ethyl 5-(N′-tert-butoxycarbonylhydrazino)-5-(3-trifluoromethylphenyl)pentanoate (323 mg) was dissolved in methanol (7 mL). A 1 N sodium hydroxide solution (5 mL) was added and the mixture was stirred at room temperature for two hours and 30 minutes. 1 N hydrochloric acid (5 mL) and ethyl acetate were added to the reaction solution, and the organic layer was separated and dried over anhydrous sodium sulfate. The drying agent was separated by filtration and then the organic layer was concentrated under reduced pressure. The residue was dissolved in dimethylformamide (8 mL). 1-Ethyl-3-(dimethylaminopropyl)carbodiimide hydrochloride (317 mg) and 1-hydroxybenzotriazole (223 mg) were added and the mixture was stirred at room temperature for 13 hours. 1-Ethyl-3-(dimethylaminopropyl)carbodiimide hydrochloride (317 mg) was added to the reaction solution, and the mixture was further stirred for one hour. Diethyl ether and water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration and then the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (214 mg). The property values of the compound are as follows.

reactant | Ethyl 5-(N′-tert-butoxycarbonylhydrazino)-5-(3-trifluoromethylphenyl)pentanoate | 323 mg | C(C)(C)(C)OC(=O)NNC(CCCC(=O)OCC)C1=CC(=CC=C1)C(F)(F)F | C19H27F3N2O4
reactant | sodium hydroxide | 1 N, 5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 5 mL | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 7 mL | CO | CH4O
product | tert-butyl [2-oxo-6-(3-trifluoromethylphenyl)piperidin-1-yl]carbamate | 214 mg | O=C1N(C(CCC1)C1=CC(=CC=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C17H21F3N2O3
